US05817671
5-(N-[2-furoyl]amino)-3-(1-ethylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.015 gm (0.061 mMol) 5-amino-3-(1-ethylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.008 mL (0.080 mMol) furoyl chloride, the title compound was prepared essentially by the procedure described in Example 7.

reactant | 5-amino-3-(1-ethylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.061 mMol, 0.015 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)CC | C14H20N4
reactant | furoyl chloride | 0.080 mMol, 0.008 mL | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
product | 5-(N-[2-furoyl]amino)-3-(1-ethylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | O1C(=CC=C1)C(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)CC | C19H22N4O2
